US07482341B2
N-(5-formyl-pyridin-2-yl)-2,2-dimethyl-propionamide (6.96 g) under an argon atmosphere in MeOH (120 mL) was cooled to 0° C. and then treated portion wise with sodium borohydride (1.289 g). The cooling bath was removed, stirring was continued for 30 minutes and the reaction mixture was partitioned between half-saturated aqueous NH4Cl and AcOEt. The layers were separated, the organic layer dried over sodium sulphate, filtered and concentrated in vacuo. The residue was purified by flash chromatography (heptane/AcOEt 1:1 to 1:2) to give N-(5-hydroxymethyl-pyridin-2-yl)-2,2-dimethyl-propionamide (3.4 g) as a crystalline white solid. MS (ESI): 209.2 (MH+).

reactant | N-(5-formyl-pyridin-2-yl)-2,2-dimethyl-propionamide | 6.96 g | C(=O)C=1C=CC(=NC1)NC(C(C)(C)C)=O | C11H14N2O2
reactant | sodium borohydride | 1.289 g | [BH4-].[Na+]
solvent | MeOH | 120 mL | CO | CH4O
product | N-(5-hydroxymethyl-pyridin-2-yl)-2,2-dimethyl-propionamide | 3.4 g | OCC=1C=CC(=NC1)NC(C(C)(C)C)=O | C11H16N2O2
